US08530483B2
3-Amino-pyridin-2-ol (50 mg, 0.45 mmol), 4-dimethylamino-benzoic acid (74 mg, 0.45 mmol), trichloroacetonitrile (91 μL, 0.91 mmol), and polystyrene triphenylphosphine (425 mg, 1.362 mmol) were suspended in acetonitrile (4.5 mL) and heated by microwave to 150° C. for 15 min. The crude reaction mixture was filtered and concentrated affording a residue which was purified by reverse phase chromatography affording dimethyl-(4-oxazolo[5,4-b]pyridin-2-yl-phenyl)-amine (7.1 mg, 0.030 mmol, 6.6% yield). ES MS (M+H+)=240; 1H NMR (300 MHz, CDCl3): δ 8.24 (d, J=5.1 Hz, 1H); 8.14 (d, J=8.6 Hz, 2H); 7.95 (d, J=7.8 Hz, 1H); 7.28 (dd, J=7.7, 4.9 Hz, 2H); 6.78 (d, J=8.6 Hz, 1H); 3.09 (s, 6H); HRMS m/z 240.1122 (C14H13N3O1+H+ requires 240.1132).

reactant | 3-Amino-pyridin-2-ol | 0.45 mmol, 50 mg | NC=1C(=NC=CC1)O | C5H6N2O
reactant | 4-dimethylamino-benzoic acid | 0.45 mmol, 74 mg | CN(C1=CC=C(C(=O)O)C=C1)C | C9H11NO2
reactant | trichloroacetonitrile | 0.91 mmol, 91 μL | ClC(C#N)(Cl)Cl | C2Cl3N
solvent | acetonitrile | 4.5 mL | C(C)#N | C2H3N
product | dimethyl-(4-oxazolo[5,4-b]pyridin-2-yl-phenyl)-amine | 0.030 mmol, 7.1 mg, 6.6% yield | CN(C1=CC=C(C=C1)C=1OC2=NC=CC=C2N1)C | C14H13N3O
